US04816452
b. Ethyl 4-bromo-(Z)-2-(cis-2-methylcyclohexyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(cis-2-methylcyclohexyloxyimino)-3-oxobutyrate (0.46 g) was treated with bromine as described in Example 4c to give the title compound (0.41 g, 68%), νmax (film) 2930, 1740, and 1695 cm-1, δH (CDCl3) 0.95 (3H, d, J 6.7 Hz), 1.35 (3H, t), 1.3-2.1 (9H, m), 4.35 (2H, s), 4.38 (2H, q), and 4.40 (1H, m). [Mass spectrum: +ve ion (ammonia) MH+ (334)].

reactant | Ethyl (Z)-2-(cis-2-methylcyclohexyloxyimino)-3-oxobutyrate | 0.46 g | C[C@@H]1[C@@H](CCCC1)O\N=C(/C(=O)OCC)\C(C)=O | C13H21NO4
reactant | bromine | BrBr | Br2
product | Ethyl 4-bromo-(Z)-2-(cis-2-methylcyclohexyloxyimino)-3-oxobutyrate | 0.41 g, 68% | BrCC(/C(/C(=O)OCC)=N/O[C@H]1[C@H](CCCC1)C)=O | C13H20BrNO4
